US04863948
(C) 2-[4-(N-Benzylmethanesulphonamido)phenyl]oxirane
4-[N-Benzylmethanesulphonamido]phenacyl bromide (30 g) and sodium borohydride (4 g) in ethanol (500 ml) were stirred at room temperature for 18 hours. The solvent was then removed and the residue was taken up in ethyl acetate and washed three times with sodium bicarbonate solution and three times with brine. The organic phase was dried and evaporated to give an oil which was chromatographed on silica, "Kieselgel 60" (Merck, Trade Mark), eluting with methylene chloride. The product-containing fractions were combined and evaporated to give a solid which was triturated with hexane and filtered off to give the title compound, yield 13 g, m.p. 89°-92°.

reactant | 4-[N-Benzylmethanesulphonamido]phenacyl bromide | 30 g | C(C1=CC=CC=C1)N(S(=O)(=O)C)C1=CC=C(C(CBr)=O)C=C1 | C16H16BrNO3S
reactant | sodium borohydride | 4 g | [BH4-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-[4-(N-Benzylmethanesulphonamido)phenyl]oxirane | C(C1=CC=CC=C1)N(S(=O)(=O)C)C1=CC=C(C=C1)C1OC1 | C16H17NO3S
